US07214802B2
N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-(4-pyridin-2-yl-[1,2,3]triazol-1-yl)-benzamide
Example 3 was prepared by coupling 4-methyl-3-(4-pyridin-2-yl-[1,2,3]triazol-1-yl)-benzoic acid with N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide in the same manner as Example 1. ESI MS m/z 533 [C27H30N6O4S+H]+.

reactant | 4-methyl-3-(4-pyridin-2-yl-[1,2,3]triazol-1-yl)-benzoic acid | CC1=C(C=C(C(=O)O)C=C1)N1N=NC(=C1)C1=NC=CC=C1 | C15H12N4O2
reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide | NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC | C12H20N2O3S
product | N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-(4-pyridin-2-yl-[1,2,3]triazol-1-yl)-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C1=NC=CC=C1)=O)OC)NS(=O)(=O)C | C27H30N6O4S
